US06448281B1
3,4-Dimethoxybenzaldehyde (5.00 g, 30 mmol) was dissolved in anhydrous THF (10 mL) and the solution cooled in ice under an argon atmosphere. Lithium bis(trimethylsilyl)amide (1 M in THF, 36 mmol, 36 mL) was added drop-wise and the resulting mixture stirred at 0° C. for 30 min. Methylmagnesium bromide (1.4 M in THF, 2 equiv., 72 mmol, 43 mL) was added and the solution allowed to warm up to room temperature. It was then reflux for 24 h. The reaction mixture was then cooled to room temperature and poured into saturated aqueous NH4Cl (200 mL). The mixture was extracted twice with DCM (75 mL) and the extract dried over MgSO4. The solution was concentrated to a volume of about 25 mL under reduced pressure and diluted with an equal volume of Et2O. Excess hydrogen chloride (4 M in dioxane) was added, and the resulting precipitate collected by filtration. It was washed with Et2O and dried in vacuo. DL-3,4-Dimethoxy-α-methylbenzylamine hydrochloride (5.1 g, 78% yield) was obtained as an orange solid.

reactant | 3,4-Dimethoxybenzaldehyde | 30 mmol, 5.00 g | COC=1C=C(C=O)C=CC1OC | C9H10O3
reactant | Lithium bis(trimethylsilyl)amide | 36 mmol, 1 M, 36 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | Methylmagnesium bromide | 72 mmol, 1.4 M, 43 mL, 2 equiv. | C[Mg]Br
reactant | NH4Cl | 200 mL | [NH4+].[Cl-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3,4-Dimethoxy-α-methylbenzylamine hydrochloride | 5.1 g, 78% yield | Cl.COC=1C=C(C(C)N)C=CC1OC | InChI=1S/C10H15NO2.ClH/c1-7(11)8-4-5-9(12-2)10(6-8)13-3;/h4-7H,11H2,1-3H3;1H
